US08431596B2
2-Chloro-N-[5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-acetamide
To a solution of 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.4 g, 1.5 mmol) in dichloromethane (20 mL), triethylamine (0.62 mL, 4.47 mmol) and chloroacetyl chloride (0.142 mL, 1.8 mmol) were added successively. The mixture was then stirred overnight. Water was added and the mixture was extracted with dichloromethane, dried over magnesium sulphate and concentrated under reduced pressure. The crude was used without further purification. Yield: 0.52 g, 100%; LCMS Method: 2: 3.57 min, 345-347 [M+1].

reactant | 5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 1.5 mmol, 0.4 g | O1CCOC2=C1C=CC(=C2)C2=CC=CC=1N2N=C(N1)N | C14H12N4O2
reactant | triethylamine | 4.47 mmol, 0.62 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 1.8 mmol, 0.142 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | Water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-Chloro-N-[5-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-acetamide | ClCC(=O)NC1=NN2C(C=CC=C2C2=CC3=C(OCCO3)C=C2)=N1 | C16H13ClN4O3
